US05719152
(5S)-9-Bromo-5-[p-tert-butoxycarbonylaminomethyl-o-(1-carboxy-1-hydroxymethyl) phenylcarbamoylmethyl]-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione
A solution of (5S)-9-bromo-5-[p-tert-butoxycarbonylaminomethyl-o-(1-methoxycarbonyl-1-acetoxymethyl)phenylcarbamoylmethyl]-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (310 mg, 0.46 mmol) in a mixture of 1N aqueous sodium hydroxide (6 mL), THF (5 mL), and methanol (5 mL) was stirred for 6 h at room temperature. The mixture was concentrated to ca. 6 mL and acidified with 5% aqueous potassium hydrogen sulfate. The precipitates formed were collected and dried to give 276 mg of the title compound (97%).

reactant | (5S)-9-bromo-5-[p-tert-butoxycarbonylaminomethyl-o-(1-methoxycarbonyl-1-acetoxymethyl)phenylcarbamoylmethyl]-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 0.46 mmol, 310 mg | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)[C@@H](CC2)CC(NC2=C(C=C(C=C2)CNC(=O)OC(C)(C)C)C(OC(C)=O)C(=O)OC)=O | C30H33BrN4O9
reactant | THF | 5 mL | C1CCOC1 | C4H8O
reactant | methanol | 5 mL | CO | CH4O
solvent | sodium hydroxide | 1N, 6 mL | [OH-].[Na+]
product | (5S)-9-Bromo-5-[p-tert-butoxycarbonylaminomethyl-o-(1-carboxy-1-hydroxymethyl) phenylcarbamoylmethyl]-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 276 mg, 97% | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)[C@@H](CC2)CC(NC2=C(C=C(C=C2)CNC(=O)OC(C)(C)C)C(O)C(=O)O)=O | C27H29BrN4O8
